US08314088B2
(6R)-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of (6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (297 mg) in methanol (10 mL) was added 20% Pd(OH)2/C (40 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 4 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (220 and the mixture was stirred for 1 hr. The reaction mixture was filtered, and the obtained crystals were washed with ethyl acetate to give the title compound (141 mg, 55%).

reactant | (6R)-8-benzyl-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 297 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N(C(CC)C)C)COC | C21H30N4O2
reactant | hydrogen chloride-ethyl acetate | 4 N | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 40 mg | [OH-].[OH-].[Pd+2]
product | (6R)-6-(methoxymethyl)-N-methyl-N-(1-methylpropyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 141 mg, 55% | Cl.COC[C@@H]1OC2=C(CNC1)N=CC(=N2)N(C(CC)C)C | InChI=1S/C14H24N4O2.ClH/c1-5-10(2)18(3)13-8-16-12-7-15-6-11(9-19-4)20-14(12)17-13;/h8,10-11,15H,5-7,9H2,1-4H3;1H/t10?,11-;/m1./s1
